US08349880B2
Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide (500 mg, 1.69 mmol, from preparation B) and 6-chloro-2-(4-(trifluoromethoxy)phenyl)hexanoic acid (523 mg, 1.685 mmol, from preparation AI) were coupled and then reacted with hydrazine (0.211 mL, 6.74 mmol) using a procedure analogous to Step A of Example 13. The crude products were purified using silica gel chromatography (40-100% ethyl acetate/chloroform) to afford 5-(5-chloro-1-(4-(trifluoromethoxy)phenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine (80 mg, 0.14 mmol, 9.0% yield) as a yellow residue. LC-MS (M+H)+ 555.1.

reactant | Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide | 1.69 mmol, 500 mg | I.ClC=1N=CN(C1)C1=C(C=C(C=C1)NC(=N)SC)OC
reactant | 6-chloro-2-(4-(trifluoromethoxy)phenyl)hexanoic acid | 1.685 mmol, 523 mg | ClCCCCC(C(=O)O)C1=CC=C(C=C1)OC(F)(F)F | C13H14ClF3O3
reactant | hydrazine | 6.74 mmol, 0.211 mL | NN | H4N2
product | 5-(5-chloro-1-(4-(trifluoromethoxy)phenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine | 0.14 mmol, 80 mg, 9.0% yield | ClCCCCC(C1=CC=C(C=C1)OC(F)(F)F)C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC | C24H23Cl2F3N6O2
